US06919329B2
Step 1: Preparation of 2,2-difluoro-4-methyl-7-nitro-4H-1,4-benzoxazin-3-one
To a stirred suspension of 2,2-difluoro-7-nitro-4H-1,4-benzoxazin-3-one (WO 99/40094,2.16 g, 9.38 mmol) in DMF (10 mL) is added K2CO3 (1.94 g, 14.07 mmol) followed by addition of Mel (0.87 mL, 14.07 mmol). The resulting solution is stirred over night at room temperature. To this reaction mixture is added water (50 mL), and the resulting solution is extracted with EtOAc (50 mL×3). The combined organic phases are washed with water (50 mL) and saline (50 mL), dried over Na2SO4 and concentrated under reduced pressure to give the title compound that is purified by passing through a short silica gel column with EtOAc (1.3 g, 57%), 1H NMR (300 MHz, DMSO) δ 8.25-8.17 (m, 2H), 7.62 (d, 1H), 3.47 (s, 3H).

reactant | 2,2-difluoro-7-nitro-4H-1,4-benzoxazin-3-one | 9.38 mmol, 2.16 g | FC1(OC2=C(NC1=O)C=CC(=C2)[N+](=O)[O-])F | C8H4F2N2O4
reactant | K2CO3 | 14.07 mmol, 1.94 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2,2-difluoro-4-methyl-7-nitro-4H-1,4-benzoxazin-3-one | FC1(OC2=C(N(C1=O)C)C=CC(=C2)[N+](=O)[O-])F | C9H6F2N2O4
